US08049006B2
methyl (2R)-3-[(tert-butoxycarbonyl)amino]-2-(5-chloro-2-methoxybenzyl)propanoate (compound 316)
To a solution of (2R)-3-[(tert-butoxycarbonyl)amino]-2-(5-chloro-2-methoxybenzyl)propionic acid (1.1 g, 98% ee) in tetrahydrofuran (32 ml), carbonyl diimidazole (600 mg) was added under ice cooling and the mixture was stirred at room temperature for 1 hour 20 minutes. To the reaction solution, methanol (12.5 ml) and triethylamine (4.3 ml) were added and the mixture was stirred at room temperature for 3 hours. To the reaction solution, water was added and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, then solvent was distilled off in vacuo. The obtained residue was purified by silica gel column chromatography to obtain the title compound (1.03 g, 98%ee) as an oily substance.

reactant | (2R)-3-[(tert-butoxycarbonyl)amino]-2-(5-chloro-2-methoxybenzyl)propionic acid | 1.1 g | C(C)(C)(C)OC(=O)NC[C@H](C(=O)O)CC1=C(C=CC(=C1)Cl)OC | C16H22ClNO5
reactant | carbonyl diimidazole | 600 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | methanol | 12.5 ml | CO | CH4O
reactant | triethylamine | 4.3 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 32 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | methyl (2R)-3-[(tert-butoxycarbonyl)amino]-2-(5-chloro-2-methoxybenzyl)propanoate | 1.03 g | C(C)(C)(C)OC(=O)NC[C@H](C(=O)OC)CC1=C(C=CC(=C1)Cl)OC | C17H24ClNO5
